Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
decreased fetal movement, abnormal uterine artery dopplers
 
Major Surgical or Invasive Procedure:
cesarean section
PICC placement
 
History of Present Illness:
___ yo G1 at ___ IVF pregnancy notable for AMA, complete
placenta previa, marginal cord insertion, chronic HTN not on 
meds,
hypothyroidism sent to labor and delivery from the office after
she was found to have a BPP of ___ (-2 breathing, -2 gross fetal
movement) done for decreased FM. Ultrasound also notable for
intermittent absent and reversed EDF. Normal fluid. Well grown
fetus. Pt reports nl fetal movement now. Denies any LOF or VB.
Denies any PIH symptoms.  

 
Past Medical History:
OBHx:
- G1: current
 
GynHx:
- denies abnormal Pap, fibroids, STIs
- endometriosis
- infertility 
 
PMH: cHTN, no meds 
 
PSH: lsc excision of endometriosis
 
Social History:
___
Family History:
not contributory
 
Physical Exam:
Physical exam at admission
VS: ___ 13:31BP: 124/79 (88)
___ 13:31Temp.: 98.0°F
___ 13:31Resp.: 20 / min
___ ___: 95
___ ___: 98
Gen: A&O, comfortable
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
Ext: no calf tenderness
 
Toco: irritable
FHT 150/moderate varability/+accels/+ occasional variables 
decels

PHYSICAL EXAM AT DISCHARGE
T
98.1
PO 151 / 86 84 16 98 
      `BP   `HR `RR`O2

PE:
General: NAD, A&Ox3
Lungs: No respiratory distress, normal work of breathing
Abd: soft, nontender, fundus firm at cm below umbilicus. No pain
with palpation of RUQ.
Incision: dressing clean/dry/intact, nontender, no surrounding
erythema or drainage, staples, vertical midline
Dressing: undressed
Lochia: minimal
Extremities: no calf tenderness

 
Pertinent Results:
___ 04:39PM   PLT COUNT-267
___ 04:39PM   WBC-9.0 RBC-4.16 HGB-12.4 HCT-35.6 MCV-86 
MCH-29.8 MCHC-34.8 RDW-13.7 RDWSD-42.0
___ 04:39PM   URIC ACID-3.4
___ 04:39PM   ALT(SGPT)-87* AST(SGOT)-45*
___ 04:39PM   estGFR-Using this
___ 04:39PM   CREAT-0.5
___ 04:51PM URINE  GR HOLD-HOLD
___ 04:51PM URINE  UHOLD-HOLD
___ 04:51PM URINE  HOURS-RANDOM
___ 04:51PM URINE  HOURS-RANDOM
___ 04:51PM URINE  HOURS-RANDOM CREAT-90 TOT PROT-17 
PROT/CREA-0.2
___ 06:42PM   PLT COUNT-272
___ 06:42PM   WBC-12.0* RBC-4.02 HGB-12.2 HCT-34.5 MCV-86 
MCH-30.3 MCHC-35.4 RDW-13.5 RDWSD-41.6
___ 06:42PM   URIC ACID-3.7
___ 06:42PM   ALT(SGPT)-84* AST(SGOT)-32
___ 06:42PM   CREAT-0.4

 Blood Culture, Routine (Preliminary): 
      LISTERIA MONOCYTOGENES.    FINAL SENSITIVITIES. 
         test result performed by Sensititre. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             LISTERIA MONOCYTOGENES
                             |   
AMPICILLIN------------   0.5 S
PENICILLIN G----------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital on ___ at 31w6d 
gestation for prolonged monitoring on Labor and Delivery for 
decreased fetal movement and abnormal dopplers. She was seen by 
the Neonatalogy team to discuss delivery at this early 
gestational age. On Labor and Delivery where she was noted to 
have normal range blood pressures, a tracing that was 
intermittently reactive with variable decelerations.  A repeat 
biophysical profile at the hospital was ___.  She was admitted 
with a diagnosis of hypertension of pregnancy, and she was also 
a known previa.  During her admission she received steroids for 
fetal lung maturation and continuous fetal monitoring. 
Evaluation revealed an increased ALT, so the diagnosis of 
preeclampsia was made and she was started on a 24 hour urine.  
The hope was that 48 hours could be obtained for fetal lung 
maturation.  Approximately 12 hours after admission, the patient 
began having repetitive decelerations and had a category 2 
tracing with non-
reassuring features.  A consult had been obtained with Maternal 
Fetal Medicine and jointly the decision was made that the 
patient needs to be delivered.  The patient had a known anterior 
placenta previa.  A scan immediately before being taken to the 
operating room showed the placenta took up most of the anterior 
abdominal wall, and therefore the decision was made to do a 
classical C-section, to try to enter above the edge of the 
placenta.  The patient was taken to the operating room and given 
rapid spinal anesthesia. 

She underwent an uncomplicated classical cesarean section. 
Please see operative report in OMR for full details.

On post-partum day 1, in the early morning she was noted to have 
a fever without localizing signs or symptoms. She spontaneously 
defervesced. That same morning she again had a fever  with mild 
fundal tenderness and was given the diagnosis of endometritis. 
Blood cultures were drawn and she was started on 
ampicillin/gentamicin and clindamycin. It was discovered the 
following day that her infant had blood cultures drawn growing 
listeria. Gent and clinda were discontinued and she was 
continued on IV ampicillin. She was seen by the infectious 
disease team for a consult. Her blood cultures resulted showing 
she was bacteremic with listeria, pan sensitive. A PICC line was 
placed so that she could continue IV ampicillin at home. She 
remained afebrile and stable. 

By postpartum day 5, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled. 
 
Medications on Admission:
Levothyroxine Sodium 50 mcg PO DAILY 
Prenatal vitamins 
 
Discharge Medications:
1.  Ampicillin 2 g IV Q4H bacteremia 
RX *ampicillin sodium 2 gram 2 grams IV every 4 hours Disp #*72 
Vial Refills:*0 
2.  Heparin Flush (10 units/ml) 2 mL IV ONCE MR1  For PICC 
insertion  Duration: 1 Dose  
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
4.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine [Levo-T] 50 mcg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*2 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every four 
(4) hours Disp #*30 Tablet Refills:*0 
6.  Sodium Chloride 0.9%  Flush 20 mL IV X1 PRN For PICC 
insertion   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p primary c/section for previa
Listeria + blood cultures

 
Discharge Condition:
stable

 
Discharge Instructions:
See discharge instructions.  Pelvic rest for 6 weeks.
 
Followup Instructions:
___